US05962436
Step A: Preparation of 2-(2-nitrophenoxy)naphthalene
To a stirred solution of 2-hydroxynaphthalene (5 g, 34.7 mmol) in anhydrous tetrahydrofuran was added 2-fluoronitrobenzene (4.90 g, 34.7 mmol) at room temperature. The resultant mixture was heated at reflux overnight. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure, the residue was diluted with water, the resulting mixture was extracted twice with methylene chloride and the combined extracts were dried (MgSO4). The resultant organic layer was concentrated under reduced pressure to yield 9.2 g of the title compound of Step A as an oil. Rf 0.45 (silica gel, 4:1 hexane-ethyl acetate).

reactant | 2-hydroxynaphthalene | 34.7 mmol, 5 g | OC1=CC2=CC=CC=C2C=C1 | C10H8O
reactant | 2-fluoronitrobenzene | 34.7 mmol, 4.90 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(2-nitrophenoxy)naphthalene | 9.2 g | [N+](=O)([O-])C1=C(OC2=CC3=CC=CC=C3C=C2)C=CC=C1 | C16H11NO3
